US08357705B2
(R)-tert-butyl-2-(1H-indol-3-yl)-1-(4-methylthiazol-2-yl)ethyl carbamate
A solution of tert-butyl-(1R)-1-(4-hydroxy-4-methyl-4,5-dihydrothiazol-2-yl)-2-(1H-indol-3-yl)ethyl carbamate (7.12 g, 18.9 mmol) in toluol (150 mL) was mixed with sodium sulphate (9.00 g) and stirred for 1 h with reflux. The mixture was filtered, the filtrate concentrated to low volume in a vacuum and the residue purified by flash chromatography (400 g, 20×7.5 cm) with ethyl acetate/cyclohexane (1:2).

reactant | tert-butyl-(1R)-1-(4-hydroxy-4-methyl-4,5-dihydrothiazol-2-yl)-2-(1H-indol-3-yl)ethyl carbamate | 18.9 mmol, 7.12 g | C(N)(O[C@H](C(C1=CNC2=CC=CC=C12)C(C)(C)C)C=1SCC(N1)(C)O)=O | C19H25N3O3S
reactant | sodium sulphate | 9.00 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluol | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-butyl-2-(1H-indol-3-yl)-1-(4-methylthiazol-2-yl)ethyl carbamate | C(N)(O[C@H](C(C1=CNC2=CC=CC=C12)C(C)(C)C)C=1SC=C(N1)C)=O | C19H23N3O2S
